US09315507B2
To a solution of 4-(adamantan-1-yl)-2-methylphenol (2.0 g, 8.76 mmol) in N,N-dimethylformamide (10 mL) was added potassium carbonate (3.63 g, 23.29 mmol) and ethyl chloroacetate (1.29 g, 10.51 mmol), and stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with aqueous sodium bicarbonate. The organic layer was dried over anhydrous magnesium sulfate. The solvent was filtered and evaporated under reduced pressure to afford a crude solid, which was purified by silica gel column chromatography to give ethyl 2-(4-(adamantan-1-yl)-2-methylphenoxy)acetate as a white solid (2.6 g, 95.9% yield).

reactant | 4-(adamantan-1-yl)-2-methylphenol | 8.76 mmol, 2.0 g | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(C=C2)O)C | C17H22O
reactant | potassium carbonate | 23.29 mmol, 3.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroacetate | 10.51 mmol, 1.29 g | ClCC(=O)OCC | C4H7ClO2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(4-(adamantan-1-yl)-2-methylphenoxy)acetate | 2.6 g, 95.9% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCC(=O)OCC)C=C2)C | C21H28O3
